US05364849
N-Cyclohexyl-2-phenylpropenamide
This compound was made from atropic acid (10.48 g, 70.8 mmol), N-methylmorpholine (7.8 ml, 70.9 mmol), iso-butyl chloroformate C9.2 ml, 70.9 mmol), and cyclohexylamine (8.1. ml, 70.7 mmol) using the procedure described in Example 3. The crude product was purified by recrystallisation from cyclohexane to give the product (4.69 g), as white crystals, m.p. 131-133°. (Found: C, 78.7; H, 8.8; N, 5.95. C15H19NO requires C, 78.6; H, 8.35; N, 6.1%.)

reactant | atropic acid | 70.8 mmol, 10.48 g | C(C(=C)C1=CC=CC=C1)(=O)O | C9H8O2
reactant | N-methylmorpholine | 70.9 mmol, 7.8 ml | CN1CCOCC1 | C5H11NO
reactant | iso-butyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | cyclohexylamine | 70.7 mmol | C1(CCCCC1)N | C6H13N
product | N-Cyclohexyl-2-phenylpropenamide | 4.69 g | C1(CCCCC1)NC(C(=C)C1=CC=CC=C1)=O | C15H19NO
